US04476132
2.98 g of malonic acid diethyl ester are dissolved in 50 ml of dimethyl acetamide and converted into the sodium salt with sodium hydride (0.895 g of a 50% strength suspension in mineral oil, de-oiled with hexane). The sodium salt is heated to 105°, in the course of 1 hour 4.9 g of 5-butyryl-4-methyl-N-propylisatic acid anhydride in 30 ml of dimethyl acetamide are added dropwise thereto, and the mixture is heated for 10 hours at 120° and stirred overnight at room temperature. The dimethyl acetamide is distilled off under reduced pressure, 200 g of ice and 20 ml of 2N hydrochloric acid are added and the reaction mixture is stirred intensively for a short time. The crystalline precipitate is filtered with suction, washed twice with ice-water, dried, suspended in diethyl ether, filtered with suction again and washed with diethyl ether. The crude product is purified by chromatography over 60 g of silica gel with toluene as eluant. The eluate is concentrated by evaporation under reduced pressure, suspended in diethyl ether, filtered with suction, washed with cold diethyl ether and dried. 6-Butyryl-4-hydroxy-7-methyl-1-propylcarbostyril-3-carboxylic acid ethyl ester having a melting point of 116°-117° is obtained.

reactant | malonic acid diethyl ester | 2.98 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | sodium | [Na] | Na
reactant | sodium hydride | [H-].[Na+]
reactant | 5-butyryl-4-methyl-N-propylisatic acid anhydride | 4.9 g | C(CCC)(=O)C1=C(C=C(C(=C1)C(=O)C(=O)OC(C(C=1C(NCCC)=CC(=C(C1)C(CCC)=O)C)=O)=O)NCCC)C | C32H40N2O7
solvent | dimethyl acetamide | 50 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | hexane | CCCCCC | C6H14
product | 6-Butyryl-4-hydroxy-7-methyl-1-propylcarbostyril-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(N(C2=CC(=C(C=C2C1O)C(CCC)=O)C)CCC)=O | C20H25NO5
